US05025031
Sulfamic acid 3-(2-methyl-1H-imidazol-1-yl)-phenyl ester monohydrochloride
A slurry of 8.7 g (0.05 mole) of 3-(2-methyl-1H-imidazol-1-yl)phenol in 150 ml of acetonitrile was treated with a solution of 0.05 mole of sulfamoyl chloride in 20 ml of acetonitrile. The mixture dissolved and slowly deposited off-white crystals over the period of 24 hr. The precipitate was collected and triturated with hot absolute ethanol. The slurry was cooled and the precipitate was collected and dried to give 4.0 g (32%) of an off-white powder, mp 197°-200° C.

reactant | 3-(2-methyl-1H-imidazol-1-yl)phenol | 0.05 mole, 8.7 g | CC=1N(C=CN1)C=1C=C(C=CC1)O | C10H10N2O
reactant | sulfamoyl chloride | 0.05 mole | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Sulfamic acid 3-(2-methyl-1H-imidazol-1-yl)-phenyl ester monohydrochloride | 4.0 g, 32% | Cl.CC=1N(C=CN1)C=1C=C(C=CC1)OS(N)(=O)=O | InChI=1S/C10H11N3O3S.ClH/c1-8-12-5-6-13(8)9-3-2-4-10(7-9)16-17(11,14)15;/h2-7H,1H3,(H2,11,14,15);1H
